US09120776B2
Using 3-((tert-butoxycarbonyl)amino)-2-methylpropanoic acid and (9-ethyl-9H-carbazol-3-yl)methanamine, and by the reaction and purification in the same manner as in the method described in Step 1 of Example 36, tert-butyl (3-(((9-ethyl-9H-carbazol-3-yl)methyl)amino)-2-methyl-3-oxopropyl)carbamate was obtained.

reactant | 3-((tert-butoxycarbonyl)amino)-2-methylpropanoic acid | C(C)(C)(C)OC(=O)NCC(C(=O)O)C | C9H17NO4
reactant | (9-ethyl-9H-carbazol-3-yl)methanamine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)CN | C15H16N2
product | tert-butyl (3-(((9-ethyl-9H-carbazol-3-yl)methyl)amino)-2-methyl-3-oxopropyl)carbamate | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)CNC(C(CNC(OC(C)(C)C)=O)C)=O | C24H31N3O3
